US06025370
In 3.0 ml of 47% hydrobromic acid was suspended 0.30 g of 1-cyclopropyl-7-[7-fluoro-2-(p-toluenesulfonyl)isoindolin-5-yl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, followed by adding thereto 0.16 g of phenol and 1.8 ml of propionic acid, and the resulting mixture was heated at 100° C. for 10 hours under a nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure, after which ethanol was added to the resulting residue and the crystals were collected by filtration to obtain 0.21 g of colorless 1-cyclopropyl-7-(7-fluoroisoindolin-5-yl)-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrobromide. The hydrobromide obtained was suspended in 1.3 ml of ethanol and dissolved in 2.6 ml of a 0.5 N aqueous sodium hydroxide solution, after which carbon dioxide was bubbled into the resulting solution and the crystals were collected by filtration to obtain 0.10 g of colorless 1-cyclopropyl-7-(7-fluoroisoindolin-5-yl)-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-cyclopropyl-7-[7-fluoro-2-(p-toluenesulfonyl)isoindolin-5-yl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.30 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)C)C=1C=C2CN(CC2=C(C1)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)C(=O)O | C29H25FN2O5S
reactant | phenol | 0.16 g | C1(=CC=CC=C1)O | C6H6O
reactant | propionic acid | 1.8 ml | C(CC)(=O)O | C3H6O2
reactant | hydrobromic acid | 3.0 ml | Br | BrH
product | 1-cyclopropyl-7-(7-fluoroisoindolin-5-yl)-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrobromide | 0.21 g | Br.C1(CC1)N1C=C(C(C2=CC=C(C(=C12)C)C=1C=C2CNCC2=C(C1)F)=O)C(=O)O | InChI=1S/C22H19FN2O3.BrH/c1-11-15(12-6-13-8-24-9-17(13)19(23)7-12)4-5-16-20(11)25(14-2-3-14)10-18(21(16)26)22(27)28;/h4-7,10,14,24H,2-3,8-9H2,1H3,(H,27,28);1H
